### PR TITLE
Update to Mathcomp 2

### PR DESCRIPTION
**Pull request by hivert**
Update FormalPowerSeries to MathComp 2.

file invlim.v / fps.v / catalan_fps.v rely on the currently unreleased math-comp-analysis branch hierarchy-builder

### CODE REVIEW

File: theories/catalan.v [hunk 1]
```diff
@@ -40,8 +40,9 @@ Example C5 : C 5 = 42. Proof. by rewrite !Csimpl. Qed.
 
 Import GRing.Theory.
 
-Local Definition Rat := [fieldType of rat].
-Local Definition char_Rat := Num.Theory.char_num [numDomainType of Rat].
+Local Definition Rat := GRing.Field.clone _ rat.
+Local Definition Rat_numDomain := (Num.NumDomain.clone _ Rat).
```
Comment (proux01) [inline theories/catalan.v]: Those can now be removed, `rat` can directly be used and when a `fieldType` or `numDomainType` is needed, it will be automatically infered (thanks to reverse coercions).

File: theories/catalan.v [hunk 2]
```diff
@@ -40,8 +40,9 @@ Example C5 : C 5 = 42. Proof. by rewrite !Csimpl. Qed.
...
+Local Definition char_Rat := Num.Theory.char_num Rat_numDomain.
```
Comment (proux01) [inline theories/catalan.v]: for instance
```suggestion
Local Definition char_rat := Num.Theory.char_num rat
```

File: theories/catalan.v [hunk 3]
```diff
@@ -192,7 +193,7 @@ Qed.
 Theorem CatM_Lagrange i : (i.+1 * (C i))%N = 'C(i.*2, i).
 Proof.
 case: i => [|i]; first by rewrite C0 mul1n bin0.
-apply/eqP; rewrite -(Num.Theory.eqr_nat [numDomainType of Rat]); rewrite natrM.
+apply/eqP; rewrite -(Num.Theory.eqr_nat Rat_numDomain); rewrite natrM.
```
Comment (proux01) [inline theories/catalan.v]:
```suggestion
apply/eqP; rewrite -(Num.Theory.eqr_nat rat); rewrite natrM.
```

File: theories/directed.v [hunk 4]
```diff
@@ -29,89 +30,67 @@ Unset Printing Implicit Defensive.
...
-       (T : porderType disp) := Mixin { _ : directed (@Order.le disp T) }.
-Record class_of (T : Type) := Class {
-  base  : Order.POrder.class_of T;
-  mixin_disp : unit;
-  mixin : mixin_of (Order.POrder.Pack mixin_disp base)
+(* Q: Is the key="T" necessary ??? key gives the carrier type *)
+#[key="T"]
+HB.mixin Record Directed (d : unit) T of Order.POrder d T := {
+  directedP : directed (T := T) <=%O
 }.
```
Comment (proux01) [inline theories/directed.v]: No, apparently it's inferred automatically.

File: theories/directed.v [hunk 5]
```diff
@@ -29,89 +30,67 @@ Unset Printing Implicit Defensive.
...
+(*
 Lemma directedP (disp : unit) (T : dirType disp) : directed (T := T) <=%O.
-Proof. by case: T => sort [/= bs mx []]. Qed.
+Proof.
+case: T => sort [/= bs mx []].
+Qed.
+*)
+
+(* Q: does an empty factory make sense ? *)
+HB.factory Record Lattice_isDirected d T of Order.Lattice d T := { }.
```
Comment (proux01) [inline theories/directed.v]: In that context, I would say yes. I guess, ideally, the ordered property should be added directly into the lattice structure but since lattice lives in another library, the empty factory is probably the next best thing to do.

File: theories/fps.v [hunk 6]
```diff
@@ -26,6 +27,7 @@ Unset Printing Implicit Defensive.
 Import Order.Syntax.
 Import Order.TTheory.
 
+Import GRing.
```
Comment (proux01) [inline theories/fps.v]: Looks suspicious, the header of `ssralg.v` tells that the `GRing` module should not be imported. I guess as long as `finalg.v` and `countalg.v` are not used in this file, it's fine to import it though.

File: theories/fps.v [hunk 7]
```diff
@@ -45,12 +47,21 @@ Reserved Notation "s ``_ i" (at level 3, i at level 2, left associativity,
 Reserved Notation "f \oS g" (at level 50).
 
 
+
+(* I'd rather not add a coercion here ! It is redundant with the
+   notation p``_i which is very confusing *)
```
Comment (proux01) [inline theories/fps.v]: Which coercion?

File: theories/fps.v [hunk 8]
```diff
@@ -45,12 +47,21 @@ Reserved Notation "s ``_ i" (at level 3, i at level 2, left associativity,
...
+HB.instance Definition _ R := gen_choiceMixin {fps R}.
+
+
 Section Defs.
 
 Variable R : ringType.
 
-
-Fact fps_bond_key : unit. Proof. by []. Qed.
+Fact fps_bond_key : Datatypes.unit. Proof. by []. Qed.
```
Comment (proux01) [inline theories/fps.v]: I guess that's a sideeffect fo the `Import GRing`.

File: theories/fps.v [hunk 9]
```diff
@@ -266,25 +236,28 @@ split => [Hco|-> //]; apply/fpsprojE => /= i; apply/tfpsP => j le_ji.
...
-Canonical coefs_additive i : {additive {fps R} -> R} :=
-  Eval hnf in Additive (coefs_is_additive i).
+Lemma coefs_is_additive i : additive (coefs i).
+Proof. by move=> s t; rewrite /= !coefs_projE projB coefB. Qed.
+HB.instance Definition _ i :=
+  isAdditive.Build {fps R} R _ (coefs_is_additive i).
 
 Lemma coefsD s t i : (s + t)``_i = s``_i + t``_i.
-Proof. exact: (raddfD (coefs_additive i)). Qed.
+Proof. exact: (raddfD (Additive.clone _ _ (coefs i) _)). Qed.
```
Comment (proux01) [inline theories/fps.v]:
```suggestion
Proof. exact: (raddfD (coefs i)). Qed.
```
is enough (same below)

File: theories/fps.v [hunk 10]
```diff
@@ -449,11 +418,13 @@ Proof. by rewrite !coefs_projE linearZ coefZ. Qed.
 Lemma alg_fpsC a : a%:A = a%:S :> {fps R}.
 Proof. by rewrite -mul_fpsC mulr1. Qed.
 
+(*
 Canonical coefps_linear i : {scalar {fps R}} :=
   Eval hnf in AddLinear
                 ((fun a => (coefsZ a) ^~ i) : scalable_for *%R (coefs i)).
```
Comment (proux01) [inline theories/fps.v]: That would require a constant for `fun p => p``_i` to attach the canonical instance to.

File: theories/fps.v [hunk 11]
```diff
@@ -704,7 +672,7 @@ case: valuatXnP => [v t Ht|]->{s}; apply (iffP idP) => //=.
 - rewrite leEnatbar => nlev.
   exists (''X ^+ (v - n) * t); rewrite mulrA.
   by rewrite -exprD subnKC //.
-- rewrite leEnatbar => [] [s] /(congr1 (coefs v)) /=.
+- rewrite leEnatbar => [] [s] /(congr1 (fun x => coef_series x v)).
```
Comment (proux01) [inline theories/fps.v]: nitpicking
```suggestion
- rewrite leEnatbar => [] [s] /(congr1 (coef_series ^ v)).
```

File: theories/fps.v [hunk 12]
```diff
@@ -918,7 +890,7 @@ by apply: (map_tfps_inj (F := F)); rewrite -!proj_map_fps eqmap.
 Qed.
 
 Lemma map_fps_idfun (K : fieldType) :
-  map_fps [rmorphism of (@idfun K)] =1 @idfun {fps K}.
+  map_fps (RMorphism.clone _ _ _ (@idfun K)) =1 @idfun {fps K}.
```
Comment (proux01) [inline theories/fps.v]:
```suggestion
  map_fps (@idfun K) =1 @idfun {fps K}.
```

File: theories/fps.v [hunk 13]
```diff
@@ -1373,14 +1337,14 @@ End Primitive.
...
-Hypothesis nat_unit : forall i, i.+1%:R \is a @GRing.unit R.
+Hypothesis nat_unit : forall i, i.+1%:R \is a @unit R.
 Implicit Types (f g : {fps R}).
 
 Lemma prim_fpsK : cancel (@prim_fps R) (@deriv_fps R).
 Proof.
 move=> p; apply/fpsP => n.
 rewrite coef_deriv_fps coef_prim_fps /=.
-by rewrite -mulr_natr divrK.
+by rewrite -[X in X = _]mulr_natr divrK.
```
Comment (proux01) [inline theories/fps.v]: nitpicking
```suggestion
by rewrite -[LHS]mulr_natr divrK.
```

File: theories/fps.v [hunk 14]
```diff
@@ -1467,8 +1431,8 @@ Qed.
 
 Fact comp_fps_is_linear g : linear (comp_fps g).
 Proof. exact: ilind_is_linear _ (compat_comp_fps g). Qed.
-Canonical comp_fps_additive g := Eval hnf in Additive (comp_fps_is_linear g).
-Canonical comp_fps_linear g := Eval hnf in Linear (comp_fps_is_linear g).
+HB.instance Definition _ g :=
+  isLinear.Build _ _ _ _ _ (comp_fps_is_linear g).
```
Comment (proux01) [inline theories/fps.v]: It's good practice to always explicitly give the key (rather than putting `_`) so that it's clear what the instance is for.
```suggestion
HB.instance Definition _ g :=
  isLinear.Build _ _ _ _ (comp_fps g) (comp_fps_is_linear g).
```

File: theories/fps.v [hunk 15]
```diff
@@ -1523,11 +1487,8 @@ Local Open Scope fps_scope.
 
 Fact comp_fps_is_multiplicative f : multiplicative (comp_fps f).
 Proof. exact: ilind_is_multiplicative _ (compat_comp_fps f). Qed.
-Canonical comp_fps_rmorphism f :=
-  Eval hnf in AddRMorphism (comp_fps_is_multiplicative f).
-Canonical comp_fps_lrmorphism f :=
-  Eval hnf in [lrmorphism of (comp_fps f)].
-
+HB.instance Definition _ g :=
+  isMultiplicative.Build _ _ _ (comp_fps_is_multiplicative g).
```
Comment (proux01) [inline theories/fps.v]:
```suggestion
HB.instance Definition _ g :=
  isMultiplicative.Build _ _ (comp_fps g) (comp_fps_is_multiplicative g).
```

File: theories/invlim.v [hunk 16]
```diff
@@ -87,59 +85,38 @@ End InverseSystem.
...
-
-Variables (disp : Datatypes.unit) (I : porderType disp).
-Variable Obj : I -> Type.
-Variable bonding : forall i j, i <= j -> Obj j -> Obj i.
-Variable Sys : invsys bonding.
 
-Record mixin_of (TLim : Type) := Mixin {
-  invlim_proj : forall i, TLim -> Obj i;
-  invlim_ind  : forall (T : Type) (f : forall i, T -> Obj i),
+#[key="TLim"]
```
Comment (proux01) [inline theories/invlim.v]: Optional, but since there are many parameters, it's maybe just as good to make this explicit.

File: theories/invlim.v [hunk 17]
```diff
@@ -149,54 +126,26 @@ Variable bonding : forall i j, i <= j -> Obj j -> Obj i.
 Variable Sys : invsys bonding.
 Variable ilT : invLimType Sys.
 
-Definition pi_phant of phant ilT := invlim_proj (mixin (class ilT)).
+Definition pi_phant of phant ilT := (@invlim_proj _ _ _ _ _ ilT).
 Local Notation "\pi" := (pi_phant (Phant ilT)).
-Definition ind_phant of phant ilT := invlim_ind (mixin (class ilT)).
+Definition ind_phant of phant ilT := (@invlim_ind _ _ _ _ _ ilT).
 Local Notation "\ind" := (ind_phant (Phant ilT)).
```
Comment (proux01) [inline theories/invlim.v]: Those phantom things are probably no longer needed, just
```Coq
Local Notation "\pi" := (@invlim_proj _ _ _ _ _ ilT).
Local Notation "\ind" := (@invlim_ind _ _ _ _ _ ilT _ _).
```
should be enough (reverse coercions now make the phantom trick useless)

File: theories/invlim.v [hunk 18]
```diff
@@ -149,54 +126,26 @@ Variable bonding : forall i j, i <= j -> Obj j -> Obj i.
...
 
-Lemma ilprojP : cone Sys \pi.
-Proof. by rewrite /pi_phant; case: ilT => /= [TLim [eqM []]]. Qed.
-
 Lemma ilprojE (x : ilT) :
   forall i j, forall (Hij : i <= j), bonding Hij (\pi j x) = \pi i x.
 Proof.
 move=> i j Hij.
 by rewrite -/((bonding Hij \o (pi_phant (Phant ilT)) j) x) ilprojP.
```
Comment (proux01) [inline theories/invlim.v]:
```suggestion
by rewrite -/((bonding Hij \o \pi j) x) ilprojP.
```

File: theories/invlim.v [hunk 19]
```diff
@@ -741,114 +471,27 @@ Proof.
...
+    (R : ringType)
+    (disp : Datatypes.unit) (I : porderType disp)
+    (Obj : I -> lalgType R)
+    (bonding : forall i j, i <= j -> {lrmorphism Obj j -> Obj i})
+    (Sys : invsys bonding)
+  := {
+    TLim of Lalgebra R TLim
+    & RingInvLim _ Sys TLim
+    & LmodInvLim _ Sys TLim
+  }.
```
Comment (proux01) [inline theories/invlim.v]: Not sure I got the question "No builder ???".

File: theories/natbar.v [hunk 20]
```diff
@@ -104,11 +114,33 @@ Definition lebar u v :=
...
+Proof. by case=> [m|] [n|] [p|] //=; exact: leq_trans. Qed.
+Lemma total_lebar : total lebar.
+Proof. by case=> [m|] [n|] //=; exact: leq_total. Qed.
+
+HB.instance Definition _ :=
+    Order.Le_isPOrder.Build lebar_display natbar lebar_refl lebar_anti lebar_trans.
+HB.instance Definition _ :=
+    Order.POrder_isTotal.Build lebar_display natbar total_lebar.
+
+(* Q: Is program Definition supported by HB ? *)
```
Comment (proux01) [inline theories/natbar.v]: It's usable with something like `Program Definition foo_mixin := @foo.Build foo _ _ _ _ _. (* obligations*) HB.instance Definition _ := foo_mixin.`

File: theories/tfps.v [hunk 21]
```diff
@@ -1244,7 +1257,7 @@ Lemma map_poly_idfun (R : ringType) : map_poly (@idfun R) =1 @idfun {poly R}.
 Proof. exact: coefK. Qed.
 
 Lemma map_tfps_idfun (K : fieldType) (m : nat) :
-  map_tfps [rmorphism of (@idfun K)] =1 @idfun {tfps K m}.
+  map_tfps (GRing.RMorphism.clone _ _ _ (@idfun K)) =1 @idfun {tfps K m}.
```
Comment (proux01) [inline theories/tfps.v]:
```suggestion
  map_tfps (@idfun K) =1 @idfun {tfps K m}.
```

File: theories/tfps.v [hunk 22]
```diff
@@ -2298,8 +2304,8 @@ move: f g; case: n => [|m] f g f0_eq0.
 rewrite -[RHS]tfpsK [m.+1.-1]/=.
 rewrite /= !comp_tfps_coeft0_eq0 ?coeft0_eq0_trXnt //.
 rewrite deriv_trXn !trXn_trXn // deriv_comp.
-rewrite -trXn_mul /=; congr (trXn _ (_ * _)).
-by rewrite -trXn_comp_polyr trXn_comp_polyl ?(eqP f0_eq0).
+rewrite -[LHS]trXn_mul /=; congr (trXn _ (_ * _)).
+by rewrite -trXn_comp_polyr trXn_comp_polyl ?(eqP f0_eq0) //.
```
Comment (proux01) [inline theories/tfps.v]:
```suggestion
by rewrite -trXn_comp_polyr trXn_comp_polyl ?(eqP f0_eq0).
```

File: theories/tfps.v [hunk 23]
```diff
@@ -3404,7 +3417,7 @@ Variables R : unitAlgType rat.
 Fact rat_algtype_nat_unit : forall i, i.+1%:R \is a @GRing.unit R.
 Proof.
 rewrite -ratr_rmorphism_nat_unit.
-have eq_in_ratr := fmorph_eq_rat [rmorphism of (in_alg R)].
+have eq_in_ratr := fmorph_eq_rat (GRing.RMorphism.clone _ _ _ (in_alg R)).
```
Comment (proux01) [inline theories/tfps.v]:
```suggestion
have eq_in_ratr := fmorph_eq_rat (in_alg R).
```

**Review by proux01 — COMMENTED** [review]
Minor suggestions, c.f. https://github.com/hivert/FormalPowerSeries/pull/2 for a sum up

File: theories/fps.v (hunk 6 above)
Comment (hivert) [reply theories/fps.v]: Then is there a prefered way to avoid having to write `GRing.` everywhere ?

File: theories/fps.v (hunk 7 above)
Comment (hivert) [reply theories/fps.v]: I mean the coercion `seriesfun :> nat -> R`. I just wrote  `seriesfun : nat -> R`.

File: theories/fps.v (hunk 8 above)
Comment (hivert) [reply theories/fps.v]: Sure ! But I'd rather write `Datatypes.unit` than `Gring.` everywhere.

File: theories/fps.v (hunk 14 above)
Comment (hivert) [reply theories/fps.v]: Good tip ! Thanks.

File: theories/invlim.v (hunk 19 above)
Comment (hivert) [reply theories/invlim.v]: I guess I meant "No mixin ???". Here I'm just giving a name to some join. Do you confirm there is nothing more to do ?

File: theories/natbar.v (hunk 20 above)
Comment (hivert) [reply theories/natbar.v]: I didn't realize there were two independent things : a call to `foo.Build` and an instance declaration.

File: theories/fps.v (hunk 6 above)
Comment (proux01) [reply theories/fps.v]: I would probably do something like `Local Notation runit := GRing.unit` to be safe (importing GRing seems to work but there is still a risk it may someday import something that could collide with your own definitions).

File: theories/fps.v (hunk 7 above)
Comment (proux01) [reply theories/fps.v]: Ok, I guess it's a matter of taste, I like the coercion in matrix.v bu maybe it's less convenient here and better to have a notation.

File: theories/fps.v (hunk 8 above)
Comment (proux01) [reply theories/fps.v]: Yes, I figured that later on.

File: theories/invlim.v (hunk 19 above)
Comment (proux01) [reply theories/invlim.v]: Yes, that's indeed how it should be done.

File: theories/fps.v (hunk 6 above)
Comment (hivert) [reply theories/fps.v]: I decided to remove the `Import GRing.` anyway. Thanks.
